US08106197B2
5-[6-Amino-5-(2-chloro-3,6-difluoro-benzyloxy)-pyridin-3-yl]-thiophene-2-carboxylic acid was prepared following procedure 3 starting from 5-bromo-3-(2-chloro-3,6-difluoro-benzyloxy)-pyridin-2-ylamine and 5-carboxythiophene-2-boronic acid.

reactant | 5-bromo-3-(2-chloro-3,6-difluoro-benzyloxy)-pyridin-2-ylamine | BrC=1C=C(C(=NC1)N)OCC1=C(C(=CC=C1F)F)Cl | C12H8BrClF2N2O
reactant | 5-carboxythiophene-2-boronic acid | C(=O)(O)C1=CC=C(S1)B(O)O | C5H5BO4S
product | 5-[6-Amino-5-(2-chloro-3,6-difluoro-benzyloxy)-pyridin-3-yl]-thiophene-2-carboxylic acid | NC1=C(C=C(C=N1)C1=CC=C(S1)C(=O)O)OCC1=C(C(=CC=C1F)F)Cl | C17H11ClF2N2O3S
